US07425568B2
h) 2-(2,3-Dihydro-2-phenyl-benzo[1,4]dioxin-6-yloxy)-5-nitropyridine
A solution of 2,3-dihydro-2-phenyl-benzo[1,4]dioxin-6-ol (80 mg), 2-chloro-5-nitropyridine (56 mg) and potassium carbonate (52 mg) in dimethylformamide (1.0 ml) was stirred at 120° C. for 2 hrs. After cooling the mixture water (10 ml) was added and the precipitated product was filtered, washed with water and 2-propanol and dried under reduced pressure. Yield is 60 mg and mp 163-170° C. 1H NMR (DMSO-d6) δ=4.16 (dd, J=8.5, 11.6 Hz, 1H), 4.47 (dd, J=11.6, 2.6 Hz, 1H), 5.28 (dd, J=2.6, 8.5 Hz, 1H), 6.75 (dd, J=2.6, 8.8 Hz, 1H), 6.88 (d, J=2.6 Hz, 1H), 7.05 (d, J=8.8 Hz, 1H), 7.21 (d, J=9.1 Hz, 1H), 7.39-7.52 (m, 5H), 8.60 (dd, J=2.8, 9.1 Hz, 1H), 9.05 (d, J=2.8 Hz, 1H).

reactant | 2,3-dihydro-2-phenyl-benzo[1,4]dioxin-6-ol | 80 mg | C1(=CC=CC=C1)C1COC2=C(O1)C=CC(=C2)O | C14H12O3
reactant | 2-chloro-5-nitropyridine | 56 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 52 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | 2-(2,3-Dihydro-2-phenyl-benzo[1,4]dioxin-6-yloxy)-5-nitropyridine | C1(=CC=CC=C1)C1COC2=C(O1)C=CC(=C2)OC2=NC=C(C=C2)[N+](=O)[O-] | C19H14N2O5
